US04965260
The starting material is prepared as follows: A solution of 2.43 g of the silver salt of 2-[(3S,4R)-3-[(1R)-1-allyloxycarbonyloxyethyl]-4-mercapto-2-oxo-azetidin-1-yl]-2-triphenylphosphoranylideneacetic acid allyl ester in 40 ml of absolute dichloromethane is treated successively with 0.56 ml of pyridine, 20 mg of 4-dimethylaminopyridine and 1.12 g of 4-methoxyphenoxyacetylchloride. The work-up procedure described above gives the desired 2-[(3S,4R)-3-[(1R)-1-allyloxycarbonyloxyethyl]-4-[4-methoxyphenoxymethylthio)-2-oxo-azetidin-1-yl]-2-triphenylphosphoranylideneacetic acid allyl ester.

reactant | 2-[(3S,4R)-3-[(1R)-1-allyloxycarbonyloxyethyl]-4-mercapto-2-oxo-azetidin-1-yl]-2-triphenylphosphoranylideneacetic acid allyl ester | C(C=C)OC(C(=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)N1C([C@@H]([C@H]1S)[C@@H](C)OC(=O)OCC=C)=O)=O | C32H32NO6PS
reactant | pyridine | 0.56 ml | N1=CC=CC=C1 | C5H5N
reactant | 4-methoxyphenoxyacetylchloride | 1.12 g | COC1=CC=C(OCC(=O)Cl)C=C1 | C9H9ClO3
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 20 mg | CN(C1=CC=NC=C1)C | C7H10N2
catalyst | silver | 2.43 g | [Ag] | Ag
product | 2-[(3S,4R)-3-[(1R)-1-allyloxycarbonyloxyethyl]-4-[4-methoxyphenoxymethylthio)-2-oxo-azetidin-1-yl]-2-triphenylphosphoranylideneacetic acid allyl ester | C(C=C)OC(C(=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)N1C([C@@H]([C@H]1SCOC1=CC=C(C=C1)OC)[C@@H](C)OC(=O)OCC=C)=O)=O | C40H40NO8PS
